US08378095B2
To a stirred mixture of 4-nitro-1H-pyrazole (2.10 g, 19 mmol, see WO2006/044821) and 4-dimethylaminopyridine (0.23 g, 2 mmol) in DCM (210 ml) was added di-tert-butyldicarbonate (4.86 g, 22 mmol) and the resulting solution stirred at room temperature for 1 hour. The reaction mixture was washed with 1M HCl, dried over MgSO4 and the solvent removed in vacuo to afford tert-butyl 4-nitro-1H-pyrazole-1-carboxylate (4.03 g, 19 mmol, 100%) as a white solid. 1H NMR (DMSO) δ 1.61 (9H, s), 8.54 (1H, s), 9.32 (1H, s). LCMS (2) Rt: 2.46 min.

reactant | 4-nitro-1H-pyrazole | 19 mmol, 2.10 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | di-tert-butyldicarbonate | 22 mmol, 4.86 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 2 mmol, 0.23 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 210 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-nitro-1H-pyrazole-1-carboxylate | 19 mmol, 4.03 g, 100% | [N+](=O)([O-])C=1C=NN(C1)C(=O)OC(C)(C)C | C8H11N3O4
